US08124606B2
Compound 76: (S)-N-isopropyl-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinamide:
(S)-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinic acid (75 mg, 0.178 mmol) was taken up in DMF (0.9 mL). To the mixture was added N-ethyl-N-isopropylpropan-2-amine (93 μl, 0.53 mmol), O-(7-Azabenzotriazole-1-yl)-N, N,N′N′-tetramethyluronium hexafluorophosphate (101 mg, 0.266 mmol), and propan-2-amine (11.5 mg, 0.195 mmol). The reaction was stirred at room temperature overnight. The reaction was purified via HPLC (10-80 MeCN/H2O, TFA buffered). The fractions were collected and lyophilized to yield 64.8 mg (65%) of the product as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.84 (s, 1H), 9.93 (br. s., 1H), 8.64 (d, J=2.0 Hz, 1H), 8.02-8.11 (m, 2H), 7.82 (d, J=2.0 Hz, 1H), 7.05 (d, J=2.0 Hz, 1H), 6.96 (d, J=9.1 Hz, 1H), 4.43-4.63 (m, 3H), 4.25 (s, 2H), 4.07 (dd, J=14.1, 6.6 Hz, 1H), 3.93-4.02 (m, 1H), 3.37-3.55 (m, 1H), 2.96-3.25 (m, 4H), 2.68 (td, J=12.9, 2.5 Hz, 1H), 2.02-2.11 (m, 1H), 1.87 (d, J=12.4 Hz, 1H), 1.33-1.72 (m, 4H), 1.14 (d, J=6.8 Hz, 6H). [M+H] calc'd for C25H33N7O2, 464. found, 464.

reactant | (S)-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinic acid | 0.178 mmol, 75 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=NC=C(C(=O)O)C=C3)CCCC2 | C22H26N6O3
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.53 mmol, 93 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propan-2-amine | 0.195 mmol, 11.5 mg | CC(C)N | C3H9N
solvent | DMF | 0.9 mL | CN(C)C=O | C3H7NO
product | (S)-N-isopropyl-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinamide | 64.8 mg, 65% | C(C)(C)NC(C1=CN=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O)=O | C25H33N7O2
